US04559354
A solution of 48.1 ml of 1N sodium hydroxide solution and 18.5 ml of water is added to a solution of 18.5 g of 2-[1-benzyl-4-(trifluoromethyl)-1H-imidazol-2-yl]-5-(4-hydroxyphenyl)-furan in 160 ml of dioxan and the mixture is stirred for 10 minutes at room temperature. After the addition of 13.3 g of epichlorohydrin, the mixture is stirred for a further 48 hours at room temperature, then filtered and the filter residue is washed with dioxan/water 1:1 and then with ether. After drying, 2-[4-(2,3-epoxypropoxy)-phenyl]-5-[1-benzyl-4-(trifluoromethyl)-1H-imidazol-2-yl]-furan is obtained in the form of a white crystallisate.

reactant | sodium hydroxide | 1N, 48.1 ml | [OH-].[Na+]
reactant | water | 18.5 ml | O | H2O
reactant | 2-[1-benzyl-4-(trifluoromethyl)-1H-imidazol-2-yl]-5-(4-hydroxyphenyl)-furan | 18.5 g | C(C1=CC=CC=C1)N1C(=NC(=C1)C(F)(F)F)C=1OC(=CC1)C1=CC=C(C=C1)O | C21H15F3N2O2
reactant | epichlorohydrin | 13.3 g | C(Cl)C1CO1 | C3H5ClO
solvent | dioxan | 160 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(2,3-epoxypropoxy)-phenyl]-5-[1-benzyl-4-(trifluoromethyl)-1H-imidazol-2-yl]-furan | O1C(COC2=CC=C(C=C2)C=2OC(=CC2)C=2N(C=C(N2)C(F)(F)F)CC2=CC=CC=C2)C1 | C24H19F3N2O3
